US04753951
A suspension of 1.7 g of 4-methylamino-3-nitroquinoline in 75 ml of ethanol is hydrogenated in the presence of 300 mg of 10% palladium on carbon at atmospheric pressure. After hydrogen absorption is complete, the catalyst is removed by filtration and the filtrate is concentrated in vacuo. The residue is purified by column chromatography on silica gel. Elution with chloroform-methanol (2:1 v/v) affords 600 mg (41%) of 3-amino-4-methylaminoquinoline A15 as an oil.

reactant | 4-methylamino-3-nitroquinoline | 1.7 g | CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C10H9N3O2
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 3-amino-4-methylaminoquinoline | 600 mg, 41% | NC=1C=NC2=CC=CC=C2C1NC | C10H11N3
